US09315495B2
To a solution of crude 5-(3-((t-butyldimethylsilyl)oxy)propyl)thiophene-2-carbaldehyde (ca. 871 mg, 3.06 mmol) in 32 mL of 9:1 methanol/water was added p-tosic acid monohydrate (58 mg, 0.31 mmol). The resulting mixture was stirred at room temperature for 45 minutes and poured into 100 mL water. Organics were extracted with ethyl acetate (2×75 mL) and ether (75 mL), dried over magnesium sulfate, filtered and concentrated. The crude residue was subjected to chromatography on silica gel with gradient elution (20-50% ethyl acetate in hexanes) to give 5-(3-hydroxypropyl)thiophene-2-carbaldehyde (360 mg, 69%).

reactant | 5-(3-((t-butyldimethylsilyl)oxy)propyl)thiophene-2-carbaldehyde | 3.06 mmol, ca. 871 mg | [Si](C)(C)(C(C)(C)C)OCCCC1=CC=C(S1)C=O | C14H24O2SSi
reactant | water | 100 mL | O | H2O
solvent | methanol water | 32 mL | CO.O
product | 5-(3-hydroxypropyl)thiophene-2-carbaldehyde | 360 mg, 69% | OCCCC1=CC=C(S1)C=O | C8H10O2S
